US09278953B2
An oven dried vial was charged with 6-bromo-1-ethyl-4-fluoro-1H-indazole (900 mg, 3.7 mmol), 5,5,5′,5′-tetramethyl-2,2′-bi(1,3,2-dioxaborinane) (1000 mg, 4.4 mmol), oven dried KOAc (1450 mg, 14.8 mmol), anhydrous dioxane (5 mL) and [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (75.9 mg, 0.093 mmol). The mixture was purged with nitrogen gas for 5 min. The reaction vial was sealed and heated at 110° C. for 1.5 h. After being cooled to r.t., to the reaction mixture was added (R)-3-(6-chloro-2-methoxypyridin-3-yl)-3-methylpiperidin-2-one (943 mg, 3.7 mmol), an aqueous solution of sodium carbonate (2 M, 4.6 mL, 9.3 mmol) and an additional [1,1′-Bis(diphenylphosphino)-ferrocene]-dichloropalladium(II) complex with dichloromethane (75.9 mg, 0.093 mmol). The reaction mixture was degassed with nitrogen, and heated at 100° C. for 3 h. The reaction mixture was cooled to r.t., diluted with EtOAc, and the organic layer was washed with brine and water, dried over MgSO4, and concentrated under reduced pressure. The crude residue was purified by silica gel column chromatography (0-20% EtOH/DCM) to afford (R)-3-(6-(1-ethyl-4-fluoro-1H-indazol-6-yl)-2-methoxypyridin-3-yl)-3-methylpiperidin-2-one (1140 mg, 81%). 1H NMR (600 MHz, CDCl3) δ 1.57 (t, 3H), 1.67-1.71 (m, 1H), 1.74 (s, 3H), 1.84 (d, 1H), 1.97-2.07 (m, 1H), 2.35-2.44 (m, 1H), 3.44 (br. s., 1H), 3.55 (br. s., 1H), 4.12 (s, 3H), 4.50 (q, 2H), 5.92 (br. s., 1H), 7.41 (d, 1H), 7.48 (d, 1H), 7.69 (d, 1H), 7.84 (s, 1H), 8.06 (s, 1H). MS (AP+)(M+H) 383.

reactant | 6-bromo-1-ethyl-4-fluoro-1H-indazole | 3.7 mmol, 900 mg | BrC1=CC(=C2C=NN(C2=C1)CC)F | C9H8BrFN2
reactant | 5,5,5′,5′-tetramethyl-2,2′-bi(1,3,2-dioxaborinane) | 4.4 mmol, 1000 mg | CC1(COB(OC1)B1OCC(CO1)(C)C)C | C10H20B2O4
reactant | KOAc | 14.8 mmol, 1450 mg | CC(=O)[O-].[K+]
reactant | dichloromethane | 0.093 mmol, 75.9 mg | ClCCl | CH2Cl2
reactant | (R)-3-(6-chloro-2-methoxypyridin-3-yl)-3-methylpiperidin-2-one | 3.7 mmol, 943 mg | ClC1=CC=C(C(=N1)OC)[C@@]1(C(NCCC1)=O)C | C12H15ClN2O2
reactant | sodium carbonate | 9.3 mmol, 2 M, 4.6 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dichloromethane | 0.093 mmol, 75.9 mg | ClCCl | CH2Cl2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (R)-3-(6-(1-ethyl-4-fluoro-1H-indazol-6-yl)-2-methoxypyridin-3-yl)-3-methylpiperidin-2-one | 1140 mg, 81% | C(C)N1N=CC2=C(C=C(C=C12)C1=CC=C(C(=N1)OC)[C@@]1(C(NCCC1)=O)C)F | C21H23FN4O2
